US08211899B2
(1) Synthesis of 1-methylcytosine
4-N—(N,N-dimethyl-aminomethylene)-1-methylcytosine (1.0 g, 5.5 mmol) and ethanol solution (50 mL) containing 30% methylamine were added in 100 mL mad apple-type flask with a magnetic stirrer and the mixture was allowed to stir for 12 hr. The precipitated white solids were collected, and recrystallized in ethanol-water mixture. The object was obtained as white solids (0.61 g, yield, 88%). 1H NMR (400 MHz, DMSO-d6):3.31 (s, 3H), 5.59 (d, 1H), 6.91 (br, 2H), 7.54 (d, 1H) 13C NMR (100 MHz, DMSO-d6):δ6.6, 92.9, 146.6, 156.3, 166.1; MS (ES1+) calcd for C5H7N3O+(M+H+) 126.0662, found 126.0804.

reactant | 4-N—(N,N-dimethyl-aminomethylene)-1-methylcytosine | 5.5 mmol, 1.0 g | CN(C)C=NC1=NC(N(C=C1)C)=O | C8H12N4O
reactant | methylamine | CN | CH5N
solvent | ethanol | 50 mL | C(C)O | C2H6O
product | 1-methylcytosine | CN1C(=O)N=C(N)C=C1 | C5H7N3O
